US04542158
A glass-lined autoclave is charged with 1 mmole of palladium acetate, 5 mmole of sodium chloride, 1.6 mmole of sodium acetate, 2 mmole of phosphomolybdenovanadic acid, 10 g of ethylene carbonate, 5.0 ml of acetic acid, 465 mmole of 1-(ethoxycarbonyloxy)ethyl salicylate, and 510 mmole of m-difluorobenzene. The mixture is stirred for 48 hours at 90° C. and under 200 psi oxygen pressure. The solution is cooled to 25° C. and excess m-difluorobenzene is removed by distillation. Fifty ml of water and 150 ml of toluene are then added to the residue. The pH is adjusted to 7-8 with aqueous sodium hydroxide (80 mmoles). The layers are separated and the aqueous solution is extracted with 150 ml of toluene. The toluene and then the excess starting materials are removed by distillation. The resulting residue is recrystallized from methanol to obtain pure 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate.

reactant | sodium chloride | 5 mmole | [Cl-].[Na+]
reactant | sodium acetate | 1.6 mmole | C(C)(=O)[O-].[Na+]
reactant | ethylene carbonate | 10 g | C1(OCCO1)=O | C3H4O3
reactant | 1-(ethoxycarbonyloxy)ethyl salicylate | 465 mmole | C(C=1C(O)=CC=CC1)(=O)OC(C)OC(=O)OCC | C12H14O6
reactant | m-difluorobenzene | 510 mmole | FC1=CC(=CC=C1)F | C6H4F2
reactant | oxygen | O=O | O2
reactant | sodium hydroxide | 80 mmoles | [OH-].[Na+]
catalyst | palladium acetate | 1 mmole | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC(C)OC(=O)OCC)=C1)O | C18H16F2O6
